US05639766
A mixture of 2-phenyl-2-cyclohexen-1-one (0.6 g, 3.5 mmol, Tetrahedron 1972, 28, 2369), hydroxylammonium chloride (0.5 g, 7 mmol) and dry pyridine (15 ml) was heated at reflux for 3 h. The reaction mixture was allowed to cool and the solvent was evaporated in vacuo. The residue was dissolved in a mixture of ethyl acetate and water. A 10% citric acid solution was added until acidic pH and the phases were separated. The organic phase was extracted with a 10% citric acid solution and dried (MgSO4). The solvent was evaporated in vacuo to give 0.55 g of 2-phenyl-2-cyclohexen-1 -one oxime. M.p. 144°-146° C.

reactant | 2-phenyl-2-cyclohexen-1-one | 3.5 mmol, 0.6 g | C1(=CC=CC=C1)C=1C(CCCC1)=O | C12H12O
reactant | hydroxylammonium chloride | 7 mmol, 0.5 g | [Cl-].O[NH3+]
solvent | pyridine | 15 ml | N1=CC=CC=C1 | C5H5N
product | 2-phenyl-2-cyclohexen-1 -one oxime | 0.55 g | C1(=CC=CC=C1)C=1C(CCCC1)=NO | C12H13NO
